US06489327B1
4-[1-(4-Carboxymethoxyphenyl)-1-methylethyl]phenoxyacetic acid (29)
6.7 g of ethyl 4-[1-(4-ethoxycarbonylmethoxyphenyl)-1-methylethyl]phenoxyacetate are dissolved in 20 ml of methanol, and 16.7 g of 10% strength sodium hydroxide solution are added. The mixture is heated to boiling under reflux for 3 hours, after which it is cooled down and the methanol is then distilled off on a rotary evaporator. The residue is diluted with water and acidified to pH 2 with 2 N HCl; the colorless precipitate is then filtered off with suction, washed with water and dried in vacuo over calcium chloride. 5.5 g of the title compound, having a m.p. of 177-179° C., are obtained.

reactant | ethyl 4-[1-(4-ethoxycarbonylmethoxyphenyl)-1-methylethyl]phenoxyacetate | 6.7 g | C(C)OC(=O)COC1=CC=C(C=C1)C(C)(C)C1=CC=C(OCC(=O)OCC)C=C1 | C23H28O6
reactant | sodium hydroxide | [OH-].[Na+]
solvent | methanol | 20 ml | CO | CH4O
product | 4-[1-(4-Carboxymethoxyphenyl)-1-methylethyl]phenoxyacetic acid | C(=O)(O)COC1=CC=C(C=C1)C(C)(C)C1=CC=C(OCC(=O)O)C=C1 | C19H20O6
